### PR TITLE
[Merged by Bors] - feat(Analysis/Distribution): basic algebraic properties of functions of temperate growth

### PR DESCRIPTION
**Pull request by mcdoll**
---

I will add a `fun_prop` tag to `HasTemperateGrowth` in a subsequent PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 1]
```diff
@@ -106,6 +106,45 @@ lemma HasTemperateGrowth.const (c : F) :
     Function.HasTemperateGrowth (fun _ : E ↦ c) :=
   .of_fderiv (by simpa using .zero) (differentiable_const c) (k := 0) (C := ‖c‖) (fun x ↦ by simp)
 
+theorem HasTemperateGrowth.neg {f : E → F} (hf : f.HasTemperateGrowth) :
+    (-f).HasTemperateGrowth := by
+  refine ⟨hf.1.neg, fun n ↦ ?_⟩
+  obtain ⟨k, C, h⟩ := hf.2 n
+  use k, C
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]: Do you think replacing the last three lines by `exact ⟨k, C, fun x ↦ by simpa [iteratedFDeriv_neg_apply] using h x⟩` would be helpful? Mathematically, there's not that much happening, so see an argument for that.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 2]
```diff
@@ -106,6 +106,45 @@ lemma HasTemperateGrowth.const (c : F) :
...
+  intro x
+  simpa [iteratedFDeriv_neg_apply] using h x
+
+theorem HasTemperateGrowth.add {f g : E → F} (hf : f.HasTemperateGrowth)
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]: You could pull f and g into a variable block; then `hg` would also fit on this line.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 3]
```diff
@@ -106,6 +106,45 @@ lemma HasTemperateGrowth.const (c : F) :
...
+    (hg : g.HasTemperateGrowth) :
+    (f + g).HasTemperateGrowth := by
+  refine ⟨hf.1.add hg.1, ?_⟩
+  intro n
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]:
```suggestion
  refine ⟨hf.1.add hg.1, fun n ↦ ?_⟩
```

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 4]
```diff
@@ -106,6 +106,45 @@ lemma HasTemperateGrowth.const (c : F) :
...
+  obtain ⟨k₁, C₁, h₁⟩ := hf.2 n
+  obtain ⟨k₂, C₂, h₂⟩ := hg.2 n
+  use max k₁ k₂, C₁ + C₂
+  intro x
+  rw [iteratedFDeriv_add_apply (hf.1.contDiffAt.of_le (le_of_lt trivial))
+    (hg.1.contDiffAt.of_le (le_of_lt trivial))]
+  grw [norm_add_le, h₁ x, h₂ x, add_mul, add_le_add]
+  · gcongr
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]: Is there a sensible way to deduplicate these five lines? (Perhaps the answer is no.)

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 5]
```diff
@@ -106,6 +106,45 @@ lemma HasTemperateGrowth.const (c : F) :
...
+    · exact le_add_of_nonneg_right (by positivity)
+    exact k₁.le_max_left k₂
+  · gcongr
+    · specialize h₂ 0
+      simp only [norm_zero, add_zero, one_pow, mul_one] at h₂
+      exact le_trans (by positivity) h₂
+    · exact le_add_of_nonneg_right (by positivity)
+    exact k₁.le_max_right k₂
+
+theorem HasTemperateGrowth.sub {f g : E → F} (hf : f.HasTemperateGrowth)
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]: If you use `variable` above, you could also cut one more line here.

**Review by grunweg — COMMENTED** [review]
Thanks! I mainly wonder if your proofs can (and should) be compressed a bit more: mathematically, there's not that much happening; perhaps the Lean side should be correspondingly shorter. What do you think?

bors d+

**Comment by grunweg** [comment]
Also: yes, please, do add the `fun_prop` tag. I'll look forward to that PR!

**Comment by mcdoll** [comment]
I did the sensible thing and used `BigO` and hey it really makes the proof shorter. I asked on zulip about the new lemma.

**Comment by mcdoll** [comment]
@grunweg could you have a look again? The new lemma was completely rewritten by @kckennylau. Yury requested more lemmas, but the there are a lot of lemmas about `IsLitteO` and `pow` already, so I think this should be fine as it is.

File: Mathlib/Analysis/Calculus/ContDiff/Operations.lean [hunk 6]
```diff
@@ -233,6 +233,10 @@ theorem iteratedFDeriv_add_apply' {i : ℕ} {f g : E → F} (hf : ContDiffAt 
     iteratedFDeriv 𝕜 i (fun x => f x + g x) x = iteratedFDeriv 𝕜 i f x + iteratedFDeriv 𝕜 i g x :=
   iteratedFDeriv_add_apply hf hg
 
+theorem iteratedFDeriv_add {i : ℕ} {f g : E → F} (hf : ContDiff 𝕜 i f) (hg : ContDiff 𝕜 i g) :
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Operations.lean:236]: The naming of this lemma's various variants does not really match the naming convention (which would be add, fun_add, add_apply and fun_add_apply (I guess)). But that's pre-existing.

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 7]
```diff
@@ -106,6 +106,35 @@ lemma HasTemperateGrowth.const (c : F) :
...
+theorem HasTemperateGrowth.add (hf : f.HasTemperateGrowth) (hg : g.HasTemperateGrowth) :
+    (f + g).HasTemperateGrowth := by
+  rw [hasTemperateGrowth_iff_isBigO] at *
+  refine ⟨hf.1.add hg.1, fun n ↦ ?_⟩
+  obtain ⟨k₁, h₁⟩ := hf.2 n
+  obtain ⟨k₂, h₂⟩ := hg.2 n
+  use max k₁ k₂
+  rw [iteratedFDeriv_add (hf.1.of_le (le_of_lt trivial)) (hg.1.of_le (le_of_lt trivial))]
+  have : 1 ≤ᶠ[⊤] fun (x : E) ↦ 1 + ‖x‖ :=
+    Filter.Eventually.of_forall (fun _ ↦ (le_add_iff_nonneg_right _).mpr (by positivity))
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean]: Not sure if this is better; I'll let you choose:
```suggestion
  have : 1 ≤ᶠ[⊤] fun (x : E) ↦ 1 + ‖x‖ := by
    filter_upwards with _ using (le_add_iff_nonneg_right _).mpr (by positivity)

**Review by grunweg — COMMENTED** [review]
Thanks, much nicer. Still LGTM!

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean (hunk 7 above)
Comment (mcdoll) [reply Mathlib/Analysis/Distribution/TemperateGrowth.lean]: Oh, it definitively is

**Comment by mcdoll** [comment]
bors merge
